US04650915
The chlorination of toluene in the presence of catalysts is known to produce the ring-chlorinated isomeric o-, m- and p-monochlorotoluenes in a ratio which varies according to the type of catalyst used and the reaction conditions chosen. Thus, for example, the chlorination of toluene at 50° C. in the presence of FeCl3 as catalyst up to a density of 1.043 g/cm3 (20° C.) leads to a product comprising 19% by weight of toluene, 49% by weight of o-chlorotoluene, 2% by weight of m-chlorotoluene and 25.5% by weight of p-chlorotoluene. Apart from these, 4.5% of dichlorotoluene are additionally formed (Ullmanns Encyl. der techn. Chemie [Ullmann's Encyclopedia of Industrial Chemistry] (1975), Volume 9, page 512). The use of TiCl4, SnCl4, WCl6 or ZrCl4 as catalysts at a chlorination temperature of 10°-30° C. increases the o-chlorotoluene content to 75% by weight (U.S. Pat. No. 3,000,975), while the use of disulfide dichloride and the metal chlorides mentioned or of sulfur and SbCl3 shifts the isomeric ratio in favor of p-chlorotoluene (U.S. Pat. No. 1,946,040). There is no successful instance of obtaining a single isomer by a suitable choice of catalyst or reaction conditions. All these processes therefore require a subsequent separation of the reaction mixture into the pure isomers, which separation is customarily carried out in two stages where, in a first working-up stage, which is expensive in outlay and energy, o-chlorotoluene (boiling point 158.5° C.) is separated as top product by distillation, for example in a bubble cap column having over 200 theoretical plates, from a bottom comprising m- and p-chlorotoluene. Due to the small difference in the boiling points of these isomers (161.2° C. and 161.5° C. respectively), it is no longer possible to separate their mixture by distillation. Pure p-chlorotoluene (melting point 7.6° C.) must therefore be separated in a second step by crystallization from the m-isomer, which has a lower melting point (melting point -48.7° C.).

reactant | o-chlorotoluene | ClC1=C(C=CC=C1)C | C7H7Cl
reactant | m-chlorotoluene | ClC=1C=C(C=CC1)C | C7H7Cl
reactant | p-chlorotoluene | ClC1=CC=C(C=C1)C | C7H7Cl
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | dichlorotoluene | 4.5% | ClC=1C(=C(C=CC1)C)Cl | C7H6Cl2
